US07572805B2
Part A. (3aR,9bS)-tert-Butyl 8-ethyl-6-methyl-5-oxo-4-phenethyl-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate
To a solution of (3aR,9bS)-tert-butyl 8-ethyl-6-methyl-5-oxo-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate, the first eluting peak from Example 74, Part B, (30 mg, 0.09 mmol) in 1 mL of DMF at ambient temperature was added sodium hydride (4 mg of 60% in mineral oil, 0.10 mmol) and phenethyliodide (33 mg, 0.14 mmol). The resulting mixture was allowed to stir at ambient temperature for 18 h. Starting material remained so the reaction was heated at 60° C. for 4 h. The reaction was quenched with water and extracted with ethyl acetate. The organics were washed with brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (elution with 3:1 hexane ethyl acetate) to afford 16 mg (41%) of the title compound as an oil. LRMS (ESI): 435.4 (M+H)+.

reactant | (3aR,9bS)-tert-butyl 8-ethyl-6-methyl-5-oxo-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | C(C)C1=CC=2[C@@H]3[C@@H](NC(C2C(=C1)C)=O)CN(C3)C(=O)OC(C)(C)C | C19H26N2O3
reactant | sodium hydride | 0.10 mmol, 4 mg | [H-].[Na+]
reactant | phenethyliodide | 0.14 mmol, 33 mg | C(CC1=CC=CC=C1)I | C8H9I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (3aR,9bS)-tert-Butyl 8-ethyl-6-methyl-5-oxo-4-phenethyl-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | 16 mg, 41% | C(C)C1=CC=2[C@@H]3[C@@H](N(C(C2C(=C1)C)=O)CCC1=CC=CC=C1)CN(C3)C(=O)OC(C)(C)C | C27H34N2O3
